US06380215B1
A solution of N-[1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-β-alanine (1.58 g) in ethyl acetate (16 ml) was added 4N HCl in ethyl acetate (13.5 ml) under stirring at 0° C. After stirring at ambient temperature for 2 hours, resulting precipitate was collected by filtration to give N-[1-{3-(4-piperidyl)-propionyl}-3-piperidylcarbonyl]-β-alanine hydrochloride (1.27 g).

reactant | N-[1-{3-(1-tert-butoxycarbonyl-4-piperidyl)propionyl}-3-piperidylcarbonyl]-β-alanine | 1.58 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | C22H37N3O6
reactant | HCl | 4N | Cl | ClH
solvent | ethyl acetate | 16 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 13.5 ml | C(C)(=O)OCC | C4H8O2
product | N-[1-{3-(4-piperidyl)-propionyl}-3-piperidylcarbonyl]-β-alanine hydrochloride | 1.27 g | Cl.N1CCC(CC1)CCC(=O)N1CC(CCC1)C(=O)NCCC(=O)O | InChI=1S/C17H29N3O4.ClH/c21-15(4-3-13-5-8-18-9-6-13)20-11-1-2-14(12-20)17(24)19-10-7-16(22)23;/h13-14,18H,1-12H2,(H,19,24)(H,22,23);1H
